US07838543B2
Step 3. 4′-Fluoro-biphenyl-4-carboxylic acid {2-[methyl-(1-methyl-piperidin-4-yl)-amino]-benzooxazol-5-yl}-amide
Add oxalyl chloride (0.16 mL, 1.82 mmol) and 3 drops of DMF to a stirring suspension of 4′-fluoro-biphenyl-4-carboxylic acid (0.197 g, 0.910 mmol) in CH2Cl2 (2.0 mL). Stir the reaction mixture at room temperature for 2 h, Concentrate the mixture in vacuo, add n-hexane, re-concentrate, and re-dissolve in CH2Cl2. Add the resultant 4′-fluoro-biphenyl-4-carbonyl chloride solution to a mixture of rac-N2-methyl-N2-(1-methyl-piperidin-4-yl)-benzooxazole-2,5-diamine (0.158 g, 0.607 mmol) and pyridine (0.05 mL) in CH2Cl2 (10 mL). Shake the reaction mixture overnight at room temperature. Wash the mixture with saturated NaHCO3 (2×20 mL), dry the organic phase over Na2SO4, filter, and concentrate the mixture in vacuo. Subject the residue to silica gel flash column chromatography (3×4 g columns, eluting with 5% 2N NH3 in MeOH/CH2Cl2) to yield the desired product as a white solid (0.106 g, 38%). mass spectrum (m/e): 459.0 (M+1), 457.0 (M−1). 1H NMR (400 MHz, CDCl3): δ 7.95-7.90 (m, 3H), 7.63 (d, J=8.0 Hz, 2H), 7.60-7.54 (m, 2H), 7.52 (d, J=1.2 Hz, 1H), 7.36 (dd, J=8.8, 1.6 Hz, 1H), 7.21 (d, J=8.0 Hz, 1H), 7.18-7.11 (m, 2H), 4.21-4.11 (m, 1H), 3.07 (s, 3H), 2.97 (d, J=11.6 Hz, 2H), 2.32 (s, 3B), 2.21-2.12 (m, 2H), 2.00-1.88 (m, 2H), 1.83-1.75 (m, 2H).

reactant | oxalyl chloride | 1.82 mmol, 0.16 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4′-fluoro-biphenyl-4-carboxylic acid | 0.910 mmol, 0.197 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H9FO2
reactant | rac-N2-methyl-N2-(1-methyl-piperidin-4-yl)-benzooxazole-2,5-diamine | 0.607 mmol, 0.158 g | CN(C=1OC2=C(N1)C=C(C=C2)N)C2CCN(CC2)C | C14H20N4O
reactant | pyridine | 0.05 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 2.0 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4′-Fluoro-biphenyl-4-carboxylic acid {2-[methyl-(1-methyl-piperidin-4-yl)-amino]-benzooxazol-5-yl}-amide | 0.106 g, 38% | CN(C=1OC2=C(N1)C=C(C=C2)NC(=O)C2=CC=C(C=C2)C2=CC=C(C=C2)F)C2CCN(CC2)C | C27H27FN4O2
